US07968746B2
To a solution of 100 mg (0.266 mmol) of 6-hydroxy-2,5,7,8-tetramethyl-N-(3-morpholinopropyl)chroman-2-carboxamide in 5 mL AcCN and one drop of H2O at 0° C., was added a solution of 320.3 mg CAN (0.584 mmol) in 3 mL H2O dropwise. The solution was treated with 5 mL EtOAc and 5 mL saturated NaCl followed by ˜1 g of NaHCO3 and 1 h of vigorous stirring. The suspension was then extracted 3×5 mL 4:1 isopropyl alcohol:isopropyl acetate solution and the combined organics dried over Na2SO4, concentrated to a yellow oil and flashed chromatographed to yield 16 mg of 2-hydroxy-2-methyl-N-(3-morpholinopropyl)-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a dark yellow oil.

reactant | 6-hydroxy-2,5,7,8-tetramethyl-N-(3-morpholinopropyl)chroman-2-carboxamide | 0.266 mmol, 100 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCCN1CCOCC1)C)C | C21H32N2O4
reactant | CAN | 0.584 mmol, 320.3 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | NaCl | 5 mL | [Na+].[Cl-]
reactant | NaHCO3 | ˜1 g | C(=O)(O)[O-].[Na+]
solvent | AcCN | 5 mL | C(=O)(C)C#N | C3H3NO
catalyst | H2O | one drop | O | H2O
solvent | H2O | 3 mL | O | H2O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 2-hydroxy-2-methyl-N-(3-morpholinopropyl)-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 16 mg | OC(C(=O)NCCCN1CCOCC1)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C21H32N2O5
